US05641430
Preparation of trans-4-(trans-4-(4-fluorophenyloxymethyl)-1-silacyclohexyl)-1-n-propylcyclohexane
4.1 g (20 mmols) of 4-n-propylcyclohexyl bromide was dropped in a mixture of 0.5 g of magnesium (21 mmols) and 50 ml of THF to obtain a Grignard reagent. Subsequently, the solution was dropped in 50 ml of a THF solution of 5.2 g (20 mmols) of 4-(4-fluorophenyloxymethyl)-1-chloro-1-silacyclohexane to obtain a crude product. This product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring and the cyclohexane ring. The product was after-treated by a usual manner and isolated through column chromatography to obtain 6.1 g (yield: 87%) of the intended trans-trans isomer product.

reactant | 4-(4-fluorophenyloxymethyl)-1-chloro-1-silacyclohexane | 20 mmols, 5.2 g | FC1=CC=C(C=C1)OCC1CC[SiH](CC1)Cl | C12H16ClFOSi
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(4-fluorophenyloxymethyl)-1-silacyclohexyl)-1-n-propylcyclohexane | yield: 87% | FC1=CC=C(C=C1)OC[C@@H]1CC[Si@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C21H33FOSi
